US04937250
A solution of potassium tert-butoxide (1.10 g) in tetrahydrofuran (50 mL) is added dropwise to a solution of 4-[1-(1-imidazolyl)-5-chloropentyl]benzonitrile (2.50 g) in tetrahydrofuran at 0° (ice-bath). The reaction is allowed to proceed at 0° for 30 minutes and is then allowed to warm to room temperature during 3 hours. The reaction is then quenched with water (100 mL) and the mixture is subsequently extracted with ethyl acetate (100 mL). The organic extract is extracted with 3N hydrochloric acid (3×30 mL) and the combined acid extracts are made basic with 6N sodium hydroxide. The crude product is extracted into ethyl acetate (3×30 mL) and the combined extracts are dried (MgSO4) and evaporated to afford 1-(4-cyanophenyl)-1-(1-imidazolyl)cyclopentane as an oil. The compound is dissolved in acetone and treated with ethereal HCl to afford the hydrochloride salt, m.p. 217°-219°.

reactant | potassium tert-butoxide | 1.10 g | CC(C)([O-])C.[K+]
reactant | 4-[1-(1-imidazolyl)-5-chloropentyl]benzonitrile | 2.50 g | N1(C=NC=C1)C(CCCCCl)C1=CC=C(C#N)C=C1 | C15H16ClN3
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-(4-cyanophenyl)-1-(1-imidazolyl)cyclopentane | C(#N)C1=CC=C(C=C1)C1(CCCC1)N1C=NC=C1 | C15H15N3
